Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.7250468769999998
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.65976205938
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.98449557118
[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],-3.83880553698
[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.28762381823
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[H:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-4.02282958962
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.626635856519999
[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-5.61986035055
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6],4.57267771312
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10].[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-6.45297521773
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14],0.0221619134204
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-3.4037390772400005
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9].[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9][H:10],-4.25686138774
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:12])[C:9]([H:10])[H:11].[H:1][O:2],5.1904444192
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11],0.942908237009
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.06226355237
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],4.0022618478400025
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1].[O:2]=[C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14],1.35817729651
[H:1].[O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.6353276545
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]=[C:6]([H:7])[H:8].[H:5],5.141611740280001
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.4108420524000005
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-3.89962269693
[H:1][C:2](/[C:3]([H:4])=[C:5]1/[C:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.87798365998
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.15918799
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:10][H:8].[C:7]=[C:9]([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([C:10])([H:11])[H:12],-1.42695896371
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5][H:6],7.85233412989
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:4],2.61002156756
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.97511196648
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4],-1.72605591
